spice
* NMOS Transistor
M1 3 4 2 2 NMOS 

* Voltage Source
V1 3 0 DC 3V

* Capacitor
CH 5 0 1pF

* Define NMOS Model (default model, update accordingly)
.model NMOS NMOS (level=1)

* Simulation Commands
.tran 1n 10u  ; Transient analysis for 10 microseconds
.end